US07863291B2
To a mixture of 4,6-dichloro-2-methylpyrimidin-5-amine (1 g, 5.62 mmol) and O-ethyl carbonisothiocyanatidate (0.66 mL, 5.62 mmol) was added toluene (2 mL) to wet the solids completely. The mixture was placed on 100° C. oil bath for 1.5 hours, at which time, the mixture had seized to give a solid mass. The solids were cooled to ambient temperature and triturated with ether, then the resulting solids were collected by filtration to give ethyl 7-chloro-5-methylthiazolo[5,4-d]pyrimidin-2-ylcarbamate (1.08 g, 3.96 mmol, 70.5% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.70 (br. s., 1H) 4.30 (q, J=7.19 Hz, 2H) 2.69 (s, 3H) 1.30 (t, J=7.15 Hz, 3H).

reactant | 4,6-dichloro-2-methylpyrimidin-5-amine | 5.62 mmol, 1 g | ClC1=NC(=NC(=C1N)Cl)C | C5H5Cl2N3
reactant | O-ethyl carbonisothiocyanatidate | 5.62 mmol, 0.66 mL | C(OCC)(=O)N=C=S | C4H5NO2S
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 7-chloro-5-methylthiazolo[5,4-d]pyrimidin-2-ylcarbamate | 3.96 mmol, 1.08 g, 70.5% yield | ClC=1C2=C(N=C(N1)C)SC(=N2)NC(OCC)=O | C9H9ClN4O2S
